US05866576
To a suspension of sodium theobromine (2.22 g, 11.0 mmol) in dimethylsulfoxide (25 mL) was added 12-tridecenyl bromide and the reaction stirred for 16 hours at 60° C. The mixture was then poured into water (80 mL) and extracted with dichloromethane (3×50 mL). The combined organic portions were washed with water (3×100 mL), dried using magnesium sulfate, and evaporated to give a gummy residue. Purification by column chromatography using an ethyl acetate/hexane eluant yields 1.89 g (50% yield) 1-(12-Tridecenyl)-3,7-dimethylxanthine (inventive compound no. 2555) as a white solid.

reactant | sodium theobromine | 11.0 mmol, 2.22 g | N1C(=O)N(C)C=2N=CN(C)C2C1=O.[Na]
reactant | 12-tridecenyl bromide | C(CCCCCCCCCCC=C)Br | C13H25Br
reactant | water | 80 mL | O | H2O
solvent | dimethylsulfoxide | 25 mL | CS(=O)C | C2H6OS
product | 1-(12-Tridecenyl)-3,7-dimethylxanthine | 1.89 g, 50% yield | C(CCCCCCCCCCC=C)N1C(=O)N(C=2N=CN(C2C1=O)C)C | C20H32N4O2
